US06150549
A one-liter autoclave equipped with a stirrer was charged in a nitrogen atmosphere with 39 grams (0.35 mol) of 1,3-dimethylcyclohexene, 94 grams (0.69 mol) of trichlorosilane and 18 grams (74 mmol) of 1,1'-azobis(cydohexane-1-carbonitrile) and the mixture was reacted at a temperature of 130° C. for 3 days. The resulting reaction mixture was purified by distillation thereby obtaining 69 grams (0.28 mol) of 2,6-dimethyl-4-cyciohexyltrichlorosilane, The structure of the resulting product was Identified by 1H-NMR analysis.

reactant | 1,3-dimethylcyclohexene | 0.35 mol, 39 grams | CC1=CC(CCC1)C | C8H14
reactant | trichlorosilane | 0.69 mol, 94 grams | Cl[SiH](Cl)Cl | Cl3HSi
reactant | 1,1'-azobis(cydohexane-1-carbonitrile) | 74 mmol, 18 grams | N(=NC1(CCCCC1)C#N)C1(CCCCC1)C#N | C14H20N4
product | 2,6-dimethyl-4-cyciohexyltrichlorosilane | 0.28 mol, 69 grams, Yield: 80% | CC1CC(CC(C1)[Si](Cl)(Cl)Cl)C | C8H15Cl3Si
